US07572820B2
1-(1,3-Thiazol-4-ylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 23 using 4-(trifluoromethyl)-1H-indole-5-carbonitrile and 4-(chloromethyl)-1,3-thiazole hydrochloride: MS (ES) m/z 308 (M+1).

reactant | 4-(trifluoromethyl)-1H-indole-5-carbonitrile | FC(C1=C2C=CNC2=CC=C1C#N)(F)F | C10H5F3N2
reactant | 4-(chloromethyl)-1,3-thiazole hydrochloride | Cl.ClCC=1N=CSC1
product | 1-(1,3-Thiazol-4-ylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | S1C=NC(=C1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C14H8F3N3S
